US06908939B2
(e) methyl (S)-2-ethoxy-3-(3′-methylaminomethylbiphenyl-4-yl)propionate
19.6 g of the crude product methyl (2S,3R)-2-ethoxy-3-hydroxy-3-(3′-methylaminomethylbiphenyl-4-yl)propionate are dissolved in 200 ml of trifluoroacetic acid and 41.7 ml (297 mmol) of triethylamine are added. The reaction medium is stirred at room temperature for 48 hours and then extracted with ethyl acetate. The organic phase is decanted off, washed with a sodium hydroxide solution and then with a saturated aqueous sodium chloride solution, dried over magnesium sulphate, filtered and evaporated off. The residue obtained is purified by chromatography on a silica column eluted with a dichloromethane and methanol (95/5) mixture. 1.6 g (10%) of the expected product are obtained.

reactant | methyl (2S,3R)-2-ethoxy-3-hydroxy-3-(3′-methylaminomethylbiphenyl-4-yl)propionate | C(C)O[C@H](C(=O)OC)[C@@H](C1=CC=C(C=C1)C1=CC(=CC=C1)CNC)O | C20H25NO4
reactant | triethylamine | 297 mmol, 41.7 ml | C(C)N(CC)CC | C6H15N
solvent | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
product | methyl (S)-2-ethoxy-3-(3′-methylaminomethylbiphenyl-4-yl)propionate | 1.6 g, 10% | C(C)O[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=CC(=CC=C1)CNC | C20H25NO3
